US07435815B2
N,N-Diethyl-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, p-toluidine and toluene-2-sulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | toluene-2-sulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N,N-Diethyl-2-[(toluene-2-sulfonyl)-p-tolyl-amino]-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C=1C(=CC=CC1)C)=O)CC | C20H26N2O3S
